US07902226B2
Ethyl 3-dimethylamino-2-(2,3,4-trifluorobenzoyl)acrylate
A mixed solution of 2,3,4-trifluorobenzoic acid (10.3 g, 58.5 mmol), thionyl chloride (6.4 ml, 87.8 mmol) and a catalytic amount of dimethylformamide was heated under reflux for 30 minutes. After letting the reaction solution cool, the reaction solution was concentrated under a reduced pressure, toluene (30 ml) was added to the residue, and concentration under a reduced pressure was performed again. The residue obtained was then dissolved in tetrahydrofuran (20 ml), and the resulting solution was added to a tetrahydrofuran (40 ml) solution of ethyl β-dimethylaminoacrylate (9.20 g, 64.3 mmol) and triethylamine (10.2 ml, 73.1 mmol) while stirring and cooling with ice. The reaction mixture was then stirred at room temperature for 1.5 hours and then heated under reflux for 16.5 hours. After letting the reaction solution cool, the precipitated solids were removed by filtration and the filtrate was concentrated under a reduced pressure. The residue was then applied to a silica gel chromatography, and 15.1 g (86%) of the title compound was obtained from an n-hexane:ethyl acetate=3:1 eluate.

reactant | 2,3,4-trifluorobenzoic acid | 58.5 mmol, 10.3 g | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | thionyl chloride | 87.8 mmol, 6.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl β-dimethylaminoacrylate | 64.3 mmol, 9.20 g | CN(C=CC(=O)OCC)C | C7H13NO2
reactant | triethylamine | 73.1 mmol, 10.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 3-dimethylamino-2-(2,3,4-trifluorobenzoyl)acrylate | 15.1 g, 86% | CN(C=C(C(=O)OCC)C(C1=C(C(=C(C=C1)F)F)F)=O)C | C14H14F3NO3
